US08609656B2
1-[4-(6-(Methylamino)purin-9-yl)phenyl]-3-[4-(4-methylpiperazin-1-ylmethyl)-3-(trifluoromethyl)phenyl]urea (Table 2, Compound No. 46)
In 2 mL of ethanol, 40 mg (0.07 mmol) of (9-{4-[3-(4-formyl-3-(trifluoromethyl)phenyl)ureido]phenyl}-9H-purin-6-yl)-methyl-carbamic acid tert-butyl ester was dissolved, and 15 μL of acetic acid and 20 mg (0.20 mmol) of 1-methylpiperazine were added thereto, and the mixture solution was stirred at room temperature for 30 minutes. To the reaction solution, 10 mg (0.26 mmol) of sodium cyanoborohydride was further added and the resulting solution was stirred at room temperature for one hour. The reaction solution was concentrated and partitioned between water and ethyl acetate and the organic layer was washed with a saturated sodium chloride solution, concentrated under reduced pressure and purified by a silica gel column (ethyl acetate:methanol=4:1). The obtained intermediate was dissolved in 1 mL of trifluoroacetic acid and stirred for one hour. The reaction solution was concentrated and partitioned between a saturated sodium bicarbonate solution and ethyl acetate, and the organic layer was washed with a saturated sodium chloride solution, concentrated under reduced pressure, and purified by trituration with ethyl acetate to obtain 27.4 mg (70%) of a target product as a white solid.

reactant | (9-{4-[3-(4-formyl-3-(trifluoromethyl)phenyl)ureido]phenyl}-9H-purin-6-yl)-methyl-carbamic acid tert-butyl ester | 0.07 mmol, 40 mg | C(C)(C)(C)OC(N(C)C1=C2N=CN(C2=NC=N1)C1=CC=C(C=C1)NC(=O)NC1=CC(=C(C=C1)C=O)C(F)(F)F)=O | C26H24F3N7O4
reactant | acetic acid | 15 μL | C(C)(=O)O | C2H4O2
reactant | 1-methylpiperazine | 0.20 mmol, 20 mg | CN1CCNCC1 | C5H12N2
reactant | sodium cyanoborohydride | 0.26 mmol, 10 mg | C(#N)[BH3-].[Na+]
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 1-[4-(6-(Methylamino)purin-9-yl)phenyl]-3-[4-(4-methylpiperazin-1-ylmethyl)-3-(trifluoromethyl)phenyl]urea | 27.4 mg, 70% | CNC1=C2N=CN(C2=NC=N1)C1=CC=C(C=C1)NC(=O)NC1=CC(=C(C=C1)CN1CCN(CC1)C)C(F)(F)F | C26H28F3N9O
